US07932251B2
F: 2-[3-(4-Bromo-2-(trifluoromethyl)-phenoxy)-propoxy]-tetrahydro-2H-pyran
A mixture of 3-(4-bromo-2-(trifluoromethyl)-phenoxy)propan-1-ol (12 g), 3,4-dihydro-2H-puran (6.75 g) and p-toluenesulfonic acid hydrate (0.76 g) in THF (100 ml) was stirred at room temperature for 1 hour then diluted with 10% sodium carbonate (50 ml) and extrated with ethyl acetate (2×150 ml). Organic layer was then dried over sodium sulphate, solvent removed under reduced pressure to give expected product (15 g).

reactant | 3-(4-bromo-2-(trifluoromethyl)-phenoxy)propan-1-ol | 12 g | BrC1=CC(=C(OCCCO)C=C1)C(F)(F)F | C10H10BrF3O2
reactant | p-toluenesulfonic acid hydrate | 0.76 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | sodium carbonate | 50 ml | C([O-])([O-])=O.[Na+].[Na+]
product | 2-[3-(4-Bromo-2-(trifluoromethyl)-phenoxy)-propoxy]-tetrahydro-2H-pyran | 15 g | BrC1=CC(=C(OCCCOC2OCCCC2)C=C1)C(F)(F)F | C15H18BrF3O3
